2141-10-15 10:59:00 Physician Attending Progress Note
Chief Complaint: hypertensive urgency, abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Increased abdominal pain, especially with food.  Lactate remains
   normal.
   Unable to take oral BP meds and so has required IV labetalol
   Unable to tolerate CPAP
   History obtained from [**Hospital 85**] Medical records, ICU team
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-10-15**] 07:13 AM
   Heparin Sodium (Prophylaxis) - [**2141-10-15**] 08:00 AM
   Other medications:
   labetalol @ 3, prednisone 4 (refused), SQH, colace, nifedipine (held),
   clonidine TD, warfarin, labetalol oral (held), calcitriol (held),
   Flagyl, ceftriaxone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-15**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 94 (81 - 110) bpm
   BP: 182/121(134) {119/62(77) - 222/135(154)} mmHg
   RR: 20 (8 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,431 mL
                                                                  1,305 mL
   PO:
                                                                  1,110 mL
             TF:
   IVF:
                                                                  1,321 mL
                                                                  1,305 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    500 mL
   Urine:
                                                                    330 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,101 mL
                                                                    805 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffuse, but without peritoneal signs
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   7.0 g/dL
   114 K/uL
   118 mg/dL
   8.1 mg/dL
   13 mEq/L
   4.7 mEq/L
   50 mg/dL
   103 mEq/L
   130 mEq/L
   21.4 %
   4.1 K/uL
        [image002.jpg]
                             [**2141-10-14**]  07:51 AM
                             [**2141-10-15**]  03:48 AM
   WBC
   6.4
   4.1
   Hct
   24.5
   21.4
   Plt
   134
   114
   Cr
   7.9
   8.1
   TropT
   0.08
   Glucose
   75
   118
   Other labs: PT / PTT / INR:16.1/33.2/1.4, CK / CKMB /
   Troponin-T:133/8/0.08, ALT / AST:16/56, Alk Phos / T Bili:141/0.2,
   Amylase / Lipase:311/49, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Lactic Acid:0.6 mmol/L,
   Albumin:3.3 g/dL, LDH:336 IU/L, Ca++:6.5 mg/dL, Mg++:1.7 mg/dL, PO4:6.5
   mg/dL
   Imaging: no new imaging
   Microbiology: no new micro
   Assessment and Plan
   24-year-old woman with hypertensive urgency, likely secondary to her
   inability to take her oral medications.  She also has nausea, vomiting,
   and diarrhea.
   Hypertensive urgency
   Appreciate renal
s help.
   PD per renal and when patient can tolerate
   Unable to tolerate oral medications at present
 maintaining on
   labetalol gtt.  Will also focus on pain control.
   Abdominal pain, nausea, vomiting, and diarrhea
   Not really clear what the etiology of this is.  There is some concern
   for viral gastroenteritis or other infections.  Since she has both
   renal disease and has been antibiotic exposed in the past month, we are
   testing and treating empirically for C diff. while awaiting for the
   tests.  No other identified sites of infection; SLE might also play a
   role.
   Appreciate surgery
s help.  Agree that serial exams are most
   appropriate plan at this time.
   Recheck PD fluid today to fully exclude PD-related peritonitis.
   OSA
   Unable to tolerate autoset.  Will need outpatient follow-up
   Pain
   Dilaudid
   Lupus
   Continue prednisone.  Consult rheumatology about whether SLE might play
   a role in her abdominal process.
   Venous thromboses
   Heparin for now since unable to take oral meds.  Discuss with her
   chronic providers.
   Acidosis
   Check VBG
   Pulmonary hypertension
   Will eventually need follow-up
   ICU Care
   Nutrition:  NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-10-14**] 12:58 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2141-10-17 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2141-10-16**] 08:36 AM
   Seen by Rheum: Continue current treatment/workup for infxn, f/u with
   outpatient rheum.
   Seen by Renal: Began home Alikiren 150 [**Hospital1 **] in addition to clonidine
   patch, nifedipine 60 PO qday, labetalol 900 TID.
Seen by GI yesterday: Considering hepatitis (infectious and autoimmune), ordered
 Hepatitis serology. Considering EGD if infectious workup is negative.
   Given 0.5mg IV Dilaudid x1 in addition to pain meds; continues to have
   abd pain, no change from yesterday. BMx1O/N
   Given Zofran 4mg IV x1 for Nausea.
   Blood pressure continues to remain elevated with SBP max in 220
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-16**] 08:37 PM
   Infusions:
   Heparin Sodium - 450 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-10-17**] 02:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies Chest pain, SOB, dizziness, lightheadedness. vomiting
   Flowsheet Data as of  [**2141-10-17**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (82 - 93) bpm
   BP: 181/116(133) {136/80(93) - 224/126(145)} mmHg
   RR: 16 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,686 mL
                                                                     55 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                    766 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    300 mL
   Urine:
                                                                  1,025 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -189 mL
                                                                   -245 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, NAD
   Eyes / Conjunctiva: L prostetic eye, EOMI in R eye, no conjunctival
   pallor
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Tachycardia, 2/6 SEM greatest at LUSB
   Peripheral Vascular: 2+ DP Bil, 2+ radial Ps Bil
   Respiratory / Chest: CTAB, no WRR
   Abdominal: Soft, Tender to palp in lower abd quadrants, no peritoneal
   signs, +BS; PD line intact with dressing clean, dry and intact.
   Ext: Minimal, non-pitting edema diffusely across proximal to distal
   left upper extremity similar to yest. Normal ROM.
   Skin:  warm, no erythema.
   Neurologic: Attentive, follows commands, Normal strength and sensation
   of UEs, CN II-XII grossly intact (considering L eye enucleation).
   Labs / Radiology
   106 K/uL
   6.6 g/dL
   123 mg/dL
   8.0 mg/dL
   14 mEq/L
   3.9 mEq/L
   47 mg/dL
   103 mEq/L
   131 mEq/L
   19.7 %
   3.5 K/uL
        [image002.jpg] HCT (10:46am): 18.6
   UCx: <10,000
   Repeat PD: GS Pending; Cx Pending; WBC 141, RBC 905, Poly 35
   ACA IgM and IgG: Pending; ACA IgG Pending; C3/C4/CH50: 67
   (low)/22/pending; dsDNA: negative; beta2 glycoprotein ab: pending
   Fibrinogen: 330
   AST ([**10-15**]): 64; Alk Phos ([**10-15**]): 139
   Stool Studies: Pending
                             [**2141-10-14**]  07:51 AM
                             [**2141-10-15**]  03:48 AM
                             [**2141-10-15**]  08:03 PM
                             [**2141-10-15**]  08:06 PM
   WBC
   6.4
   4.1
   3.6
   Hct
   24.5
   21.4
   22.4
   Plt
   134
   114
   108
   Cr
   7.9
   8.1
   8.0
   TropT
   0.08
   TCO2
   16
   Glucose
   75
   118
   123
   Other labs: PT / PTT / INR:16.8/88.9/1.5, CK / CKMB /
   Troponin-T:133/8/0.08, ALT / AST:17/64, Alk Phos / T Bili:139/0.2,
   Amylase / Lipase:311/49, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:308 IU/L, Ca++:6.4 mg/dL,
   Mg++:1.5 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   24 yo F with ESRD secondary to SLE (started PD approx two weeks ago),
   malignant HTN, h/o SVC syndrome, and multiple thrombotic events (on
   warfarin) presented with N/V/D, abd pain, and hypertensive urgency.
   # Nausea/Vomitting/Diarrhea/Abd Pain: Abd pain is uncontrolled with
   Dilaudid; nausea O/N.  BMx1 and stool samples acquired for infectious
   workup.  Etiology still unknown. DDx: Infection: c. diff colitis or
   viral gastroenteritis; Ischemia: microthrombosis, malignant HTN, or SLE
   vasculitis; and SLE enteritis.
   - Appreciate surgery, GI, and rheum recs.
   - Per GI
s recs today, pt will have non-urgent enteroscopy tomorrow
   - Continue supportive care and serial abd exams
   - F/u Stool Studies (Stool cx obtained this am); f/u rheum-SLE studies
   - Continue Flagyl empirically
   - Will continue to follow stool guaiacs
   - Heparin gtt for treatment of possible thrombotic ischemia; heparin
   gtt will be stopped at 5am or 6hrs before GI procedure. Will hold
   warfarin today for GI procedure as well.
   - D/c
ed dilaudid; will begin Morphine 4-8mg IV q6PRN.
   # Hypertensive urgency: Uncontrolled with max SBP in the 220
s O/N most
   likely due to uncontrolled pain and not on all home hypertensive
   medications; on PO meds since yesterday. Pt
s SBP decreased to 120
   during day without labetalol gtt.
   -          Appreciate renal recs.
   -          Although ordered, pt has not started Labetalol gtt. Will
   continue aliskerin and clonidine PO. Per renal, will add hydralazine
   50mg q6hrs and increased nifedipine to 90. SBP goal of <160.
   -          Pain control with Morphine.
   .
   # ESRD: [**2-11**] SLE.  Estimated GFR is 8mL/min. Cr increased, currently
   stable at 8.0.
   -                No PD today per renal; renal will attempt to drain
   300cc from PD site for cell count and culture.
   .
   # Anemia:  Previously decreasing HCT; currently HCT at 19.7
18.6
   (baseline in low-mid 20s). Etiologies include GI bleed (guaiac pos
   stool, abd pain), hemolysis, and ACD [**2-11**] CRF. T&S on [**10-14**].
   -          Will transfuse 1unit pRBCs and follow HCT
   -          Per rheum, will check retic, haptoglobin
   -          Per renal, Epo 2-10,000 units SC today given chronic anemia.
   #Hypocalcemia: Ca decreased at 6.4.
   - Will replete with Ca Gluconate 4gmx 1 today.
   - Continue Calcitriol and Calcium carbonate.
   - Follow daily calcium including an ionized Ca tomorrow
   #Metabolic Acidosis:  Recent VBG suggests Metabolic Acidosis with
   respiratory compensation. Bicarb continues to remain low at 12,
   baseline 16-20. Per renal, pt is well known to their service and has
   received NaHCO3 in the past.
   -                Per renal, pt will receive NaHCO3 150 mEq in 1000cc
   D5W at 50cc/hr for 1250cc to correct acidosis after correct
   hypocalcemia.
   -                Will check VBG and HCO3 tomorrow am.
   .
   #OSA: pt unable to tolerate CPAP.
   -Will d/c CPAP
   -F/u with outside PCP for OSA [**Name Initial (PRE) **]/u.
   # H/O Venous Thrombosis: warfarin 2mg qd at home. INR 1.2 on arrival,
   last INR 1.5.
   -          Heparin IV gtt now; will hold Warfarin today and heparin (as
   written above) for potential GI procedure.
   -          Follow INR with daily coags
   .
   # SLE:  Possible etiology of GI symptoms includes vasculitis.
   -Awaiting SLE studies.
   -Appreciate Rheum assistance.
   -Cont. prednisone 4mg home dose; Will check prednisone level.
   # FEN: Regular diet. IVF to KVO. Replete lytes prn.
   .
   # ACCESS: PD cath, PIVx1, mid-line placed yest
   .
   # PPx: Heparin gtt.
   .
   # CODE: FULL
   .
   # COMMUNICATION: patient, mother [**Name (NI) 4948**] [**Name (NI) **] (works at [**Hospital1 54**]).
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   Agree with above excellent MS4 PN, Pt now normotensive without need for
   IV gtt, and is tolerating pos well, including meds. Uptitrating BP meds
   per renal recs. Pain is better controlled. Likely call out to floor
   today
   -[**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 842**], PGY2

2141-10-17 10:12:00 Physician Attending Progress Note
Chief Complaint: hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2141-10-16**] 08:36 AM
   Persistent abdominal Pain
   Worsening hypertension
   Able to take po meds
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-16**] 08:37 PM
   Infusions:
   Heparin Sodium - 450 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-10-17**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-17**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 84 (82 - 93) bpm
   BP: 212/134(149) {136/80(93) - 224/136(152)} mmHg
   RR: 30 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,686 mL
                                                                     96 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                    766 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    400 mL
   Urine:
                                                                  1,025 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -189 mL
                                                                   -304 mL
   Respiratory support
   SpO2: 99%
   ABG: ///12/
   Physical Examination
   Gen: lying in bed, nauseated,
   HEENT: o/p clear
   CV: RR
   Chest: CTA
   ABd distended soft +BS
   Ext: no edema
   Neuro: nonfocal
   Labs / Radiology
   6.6 g/dL
   106 K/uL
   106 mg/dL
   8.2 mg/dL
   12 mEq/L
   4.5 mEq/L
   42 mg/dL
   109 mEq/L
   135 mEq/L
   19.7 %
   3.5 K/uL
        [image002.jpg]
                             [**2141-10-14**]  07:51 AM
                             [**2141-10-15**]  03:48 AM
                             [**2141-10-15**]  08:03 PM
                             [**2141-10-15**]  08:06 PM
                             [**2141-10-17**]  06:08 AM
   WBC
   6.4
   4.1
   3.6
   3.5
   Hct
   24.5
   21.4
   22.4
   19.7
   Plt
   134
   114
   108
   106
   Cr
   7.9
   8.1
   8.0
   8.2
   TropT
   0.08
   TCO2
   16
   Glucose
   75
   118
   123
   106
   Other labs: PT / PTT / INR:16.8/88.9/1.5, CK / CKMB /
   Troponin-T:133/8/0.08, ALT / AST:17/64, Alk Phos / T Bili:139/0.2,
   Amylase / Lipase:311/49, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:308 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   24-year-old woman with hypertensive urgency, likely secondary to her
   inability to take her oral medications.  She also has nausea, vomiting,
   and diarrhea.
   Hypertensive urgency : Appreciate renal
s help.  PD per renal and when
   patient can tolerate
   Unable to tolerate oral medications at present need to restart
   labetalol drip.
   Abdominal pain, nausea, vomiting, and diarrhea
   DDx
 infectious- stool this AM cx pending, testing for C diff.  and
   treating empirically for C diff. Other possibilities check hepatitis
   panel. GI may be willing to scope this admit if infectioius workup is
   negative. SLE might also play a role. Appreciate surgery
s help.
   Recheck PD fluid today to fully exclude PD-related peritonitis.
   Anemia: lower than baseline, recheck afternoon HCT
   OSA
   Unable to tolerate autoset.  Will need outpatient follow-up
   Pain
   Dilaudid IV and trying to convert t po regimen -
   Lupus
   Continue prednisone.  Consult rheumatology about whether SLE might play
   a role in her abdominal process.
   Venous thromboses
   Heparin for now since unable to take oral meds.  Discuss with her
   chronic providers.
   Pulmonary hypertension
   Will eventually need follow-up
   ICU Care
   Nutrition: not tolerating pos at present
   Glycemic Control:
   Lines: 22 Gauge - [**2141-10-16**] 02:40 AM
   Midline - [**2141-10-16**] 08:36 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: ppi
   Communication:  with ot and mother
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 40

2141-10-18 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had HCT drop to 18 yesterday
 Transfused 1unit PRBCs HCT bumped to
   24
23.4
   GI will scope in am
 NPO at midnight and heparin stopped at about 6am,
   DDAVP 30min before procedure.
   Abd Pain: Improved at 6/10 in severity, d/c
ed Dilaudid yesterday and
   on Morphine 4mg q6hrs.
   HTN: SBP in the 140
s O/N until early am [**10-18**] and SBP elevated to
   200
s.  Yesterday, increased nifedipime to 90 and continued labetalol
   900 TID (labetalol gtt never started yest), hydralazine 50 q6,
   aliskerin 150 [**Hospital1 **], and clonidine patch.
   Acidosis: Pt started NaHCO3 150mEq in D5W at 50cc/hr for 1250cc yest.
   Called Out. Awaiting bed.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-17**] 08:00 PM
   Infusions:
   Heparin Sodium - 150 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-10-17**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-18**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 85 (84 - 92) bpm
   BP: 164/119(130) {130/72(86) - 212/136(152)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,018 mL
                                                                    297 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                    603 mL
                                                                    297 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,100 mL
                                                                    100 mL
   Urine:
                                                                  1,100 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    918 mL
                                                                    198 mL
   Respiratory support
   SpO2: 97%
   VBG: 7.26/38/40/18/-9 (Last: 7.25/35/55/16/-10)
   Physical Examination
   General Appearance: Well nourished, NAD
   Eyes / Conjunctiva: L prostetic eye, EOMI in R eye, no conjunctival
   pallor
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, 1/6 SEM greatest at LUSB
   Peripheral Vascular: 2+ DP Bil
   Respiratory / Chest: CTAB, no WRR
   Abdominal: Soft, Tender to palp in lower midline adb, no peritoneal
   signs, +BS; PD line intact with dressing clean, dry and intact.
   Ext: Minimal, non-pitting edema diffusely across proximal to distal
   left upper extremity similar to yest. Normal ROM.
   Skin:  warm, no erythema.
   Neurologic: Attentive, follows commands, Normal strength and sensation
   of UEs, CN II-XII grossly intact (considering L eye enucleation).
   Labs / Radiology
   39 mg/dL
   102 K/uL
   8.1 g/dL
   90
   7.9 mg/dL
   17
   4.5
   107
   137 /L
   23.4 %
   2.9 K/uL
        [image002.jpg]
   _______________________________________________________________________
   Ca: 6.8 Mg: 1.9 P: 5.5
   ALT: 13
   AP: 148
   Tbili: 0.2
   Alb:
   AST: 60
   LDH: 288
   Dbili:
   TProt:
   [**Doctor First Name 429**]: 292
   Lip:
   PT: 16.3
   PTT: 42.8
   INR: 1.5
   Free Ca: 1.00, Lactate 0.6
   AMA, AMSA, [**Doctor First Name 1205**]: Pending
   Stool Cx: C.dif negx1, no O&P; BCx: Pending; Hepatitis Panel: Negative
                             [**2141-10-14**]  07:51 AM
                             [**2141-10-15**]  03:48 AM
                             [**2141-10-15**]  08:03 PM
                             [**2141-10-15**]  08:06 PM
                             [**2141-10-17**]  06:08 AM
                             [**2141-10-17**]  10:48 AM
                             [**2141-10-17**]  10:56 PM
   WBC
   6.4
   4.1
   3.6
   3.5
   Hct
   24.5
   21.4
   22.4
   19.7
   18.6
   24.7
   Plt
   134
   114
   108
   106
   Cr
   7.9
   8.1
   8.0
   8.2
   TropT
   0.08
   TCO2
   16
   Glucose
   75
   118
   123
   106
   Assessment and Plan
   24 yo F with ESRD secondary to SLE (started PD approx two weeks ago),
   malignant HTN, h/o SVC syndrome, and multiple thrombotic events (on
   warfarin) presented with N/V/D, abd pain, and hypertensive urgency.
   # Nausea/Vomitting/Diarrhea/Abd Pain: Abd pain is in better control
   with Morphine.  BM O/N.  Etiology still unknown. DDx: Infection: c.
   diff colitis or viral gastroenteritis; Ischemia: microthrombosis,
   malignant HTN, or SLE vasculitis; and SLE enteritis; pancreatitis; GIB
   (considering HCT drop and occ pos stool) secondary to gastritis or PUD
   (given history of steroid use and CT findings).
   - Appreciate surgery, GI, and rheum recs.
   - Per GI
s recs, pt will have non-urgent enteroscopy today; NPO,
   heparin gtt off, and DDAVP for procedure.
   - Continue supportive care and serial abd exams
   - F/u Stool Studies; f/u rheum-SLE studies; re-check LFTs and amylase
   - Continue Flagyl empirically
   - Will continue to follow stool guaiacs
   - Heparin gtt for treatment of possible thrombotic ischemia; heparin
   gtt stopped at 5am or 6hrs before GI procedure. Will hold warfarin
   today for GI procedure as well.
   - Morphine 4-8mg IV q6PRN.
   # Hypertensive urgency: Uncontrolled with max SBP in the 200
s O/N most
   likely due to uncontrolled pain; on all home PO hypertensive
   medications; Pt
s SBP decreased to 120
s during day without labetalol
   gtt yesterday
   -          Appreciate renal recs.
   -          Although ordered, pt has not started Labetalol gtt. Will
   continue aliskerin, hydralazine, nifedipine and clonidine PO. SBP goal
   of <160.
   -          Pain control with Morphine.
   .
   # ESRD: [**2-11**] SLE.  Estimated GFR is 8mL/min. Cr increased, currently
   stable
   -                No PD yest per renal; renal will attempt to drain
   300cc from PD site for cell count and culture.
   .
   # Anemia:  Decreasing HCT; s/p 1unit pRBCs, currently HCT 23.4
   (baseline in low-mid 20s). Etiologies include GI bleed (guaiac pos
   stool, abd pain), hemolysis, ACD [**2-11**] CRF and that she has not received
   Epo until yesterday. T&S on [**10-14**]. Epo given yest
   -          Recheck HCT at 3pm
   - Follow renal recs
   -  Enteroscopy per GI today
   #Hypocalcemia: Ca decreased at 6.4 yest, repleted with CaGluconate 4gm
   x1, ionized Ca low at 1.00 today.
   - Continue Calcitriol and Calcium carbonate.
   - Follow daily calcium
   - Will replete with CaGluconate 4gmx1 now.
   #Metabolic Acidosis:  Recent VBG suggests Metabolic Acidosis with
   respiratory compensation. Bicarb continues to remain low at 12,
   baseline 16-20. Per renal, pt is well known to their service and has
   received NaHCO3 in the past.
   -                Per renal, pt will receive NaHCO3 150 mEq in 1000cc
   D5W at 50cc/hr for 1250cc to correct acidosis after correct
   hypocalcemia.
   -                Will check VBG and HCO3 tomorrow am.
   .
   #OSA: pt unable to tolerate CPAP.
   -Will d/c CPAP
   -F/u with outside PCP for OSA [**Name Initial (PRE) **]/u.
   # H/O Venous Thrombosis: warfarin 2mg qd at home. INR 1.2 on arrival,
   last INR 1.5.
   -          Heparin IV gtt now; will hold Warfarin today and heparin (as
   written above) for potential GI procedure.
   -          Follow INR with daily coags
   .
   # SLE:  Possible etiology of GI symptoms includes vasculitis.
   -Awaiting SLE studies.
   -Appreciate Rheum assistance.
   -Cont. prednisone 4mg home dose; Will check prednisone level.
   # FEN: Regular diet. IVF to KVO. Replete lytes prn.
   .
   # ACCESS: PD cath, PIVx1, mid-line placed yest
   .
   # PPx: Heparin gtt.
   .
   # CODE: FULL
   .
   # COMMUNICATION: patient, mother [**Name (NI) 4948**] [**Name (NI) **] (works at [**Hospital1 54**]).
   Dispo: Called out to floor, awaiting bed.
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   Patient seen and examined. Agree with above MSIV note. Plan as above.
   Patient called out to floor.

2141-10-19 11:20:00 Physician Attending Progress Note
Chief Complaint: HTN urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2141-10-18**] 01:15 PM
   Pt received 150 Fentanyl and  3mg Versed for sedation and comfort.
 MIDLINE - STOP [**2141-10-18**] 08:42 PM
 MIDLINE - START [**2141-10-19**] 05:35 AM
 CALLED OUT
   Pt went out to the floor after EGD. Did not get po meds. BP was
   [**Telephone/Fax (3) 5908**]- given 20 IV Hydral without response and then po meds and
   sent abck to MICU for eval. Did not require IV labetalol and BP have
   trended back down to 160/80.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-18**] 08:00 AM
   Infusions:
   Heparin Sodium - 350 units/hour
   Other ICU medications:
   Heparin Sodium - [**2141-10-19**] 06:31 AM
   Morphine Sulfate - [**2141-10-19**] 06:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-19**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 88 (81 - 102) bpm
   BP: 130/74(88) {103/56(65) - 223/136(157)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,044 mL
                                                                    207 mL
   PO:
                                                                    620 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,149 mL
                                                                     87 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                    530 mL
                                                                      0 mL
   Urine:
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,514 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   97 K/uL
   96 mg/dL
   8.3 mg/dL
   16 mEq/L
   4.6 mEq/L
   39 mg/dL
   108 mEq/L
   135 mEq/L
   26.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2141-10-14**]  07:51 AM
                             [**2141-10-15**]  03:48 AM
                             [**2141-10-15**]  08:03 PM
                             [**2141-10-15**]  08:06 PM
                             [**2141-10-17**]  06:08 AM
                             [**2141-10-17**]  10:48 AM
                             [**2141-10-17**]  10:56 PM
                             [**2141-10-18**]  05:49 AM
                             [**2141-10-18**]  04:25 PM
                             [**2141-10-19**]  05:12 AM
   WBC
   6.4
   4.1
   3.6
   3.5
   2.9
   5.8
   Hct
   24.5
   21.4
   22.4
   19.7
   18.6
   24.7
   23.4
   22.9
   26.2
   Plt
   134
   114
   108
   106
   102
   97
   Cr
   7.9
   8.1
   8.0
   8.2
   7.9
   8.3
   TropT
   0.08
   TCO2
   16
   Glucose
   75
   118
   123
   106
   90
   96
   Other labs: PT / PTT / INR:15.3/44.0/1.4, CK / CKMB /
   Troponin-T:133/8/0.08, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:292/49, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   24-year-old woman with hypertensive urgency, likely secondary to her
   inability to take her oral medications.  She also has nausea, vomiting,
   and diarrhea.
   1. Hypertensive urgency : Appreciate renal
s help. Did not get meds and
   was very HTN on floor then dropped and lower this AM. We will add back
   her po meds 1 at a time this AM with goal 160/80. restart PD per renal
   today.
   2. Abdominal pain, nausea, vomiting, and diarrhea: DDx
ischemic. s/p
   EGD push enteroscopy with GE junction, normal appearing small bowel
   follow up path.
   3. Anemia: lower than baseline, bumped with transfusion
 possible slow
   loss from
   4. Pain
   Morphine IV q4-6
 with good control
   5. Lupus
   Continue prednisone.  Consult rheumatology about whether SLE might play
   a role in her abdominal process.
   6. Venous thromboses
   Heparin for now since unable to take oral meds.
   7. Pulmonary hypertension
   Will eventually need follow-up
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Midline - [**2141-10-19**] 05:35 AM
   22 Gauge - [**2141-10-19**] 05:35 AM
   Prophylaxis:
   DVT: hep drip transition to coumadin
   Stress ulcer: ppi
   Communication:  with patient and her Mom
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor

2141-10-20 11:39:00 Physician Attending Progress Note
Chief Complaint: HTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2141-10-19**] 08:47 AM
   cardiac echo
 CALLED OUT
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2141-10-18**] 08:00 AM
   Infusions:
   Heparin Sodium - 450 units/hour
   Other ICU medications:
   Heparin Sodium - [**2141-10-20**] 07:30 AM
   Morphine Sulfate - [**2141-10-20**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-20**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 94 (84 - 94) bpm
   BP: 191/98(112) {125/66(81) - 208/134(153)} mmHg
   RR: 20 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    678 mL
                                                                    461 mL
   PO:
                                                                    320 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    358 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    400 mL
   Urine:
                                                                    350 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    128 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Gen: lying in bed, conversant NAD
   HEENT: o/p clear
   CV: RR
   Chest: CTA
   ABd distended soft +BS
   Ext: no edema
   Neuro: nonfocal
   Labs / Radiology
   8.8 g/dL
   107 K/uL
   84 mg/dL
   8.0 mg/dL
   18 mEq/L
   4.0 mEq/L
   36 mg/dL
   107 mEq/L
   136 mEq/L
   25.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2141-10-15**]  03:48 AM
                             [**2141-10-15**]  08:03 PM
                             [**2141-10-15**]  08:06 PM
                             [**2141-10-17**]  06:08 AM
                             [**2141-10-17**]  10:48 AM
                             [**2141-10-17**]  10:56 PM
                             [**2141-10-18**]  05:49 AM
                             [**2141-10-18**]  04:25 PM
                             [**2141-10-19**]  05:12 AM
                            [**2141-10-20**]  03:55 AM
   WBC
   4.1
   3.6
   3.5
   2.9
   5.8
   4.0
   Hct
   21.4
   22.4
   19.7
   18.6
   24.7
   23.4
   22.9
   26.2
   25.5
   Plt
   114
   108
   106
   102
   97
   107
   Cr
   8.1
   8.0
   8.2
   7.9
   8.3
   8.0
   TCO2
   16
   Glucose
   118
   123
   106
   90
   96
   84
   Other labs: PT / PTT / INR:15.9/52.3/1.4, CK / CKMB /
   Troponin-T:133/8/0.08, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:299/67, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.2 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   24-year-old woman with hypertensive urgency, likely secondary to her
   inability to take her oral medications.  She also has nausea, vomiting,
   and diarrhea.
   1. Hypertensive urgency : Appreciate renal
s help. Did not get meds and
   was very HTN on floor then dropped and lower this AM. We will add back
   her po meds 1 at a time this AM with goal 160/80. restart PD per renal
   today.
   2. Abdominal pain, nausea, vomiting, and diarrhea: DDx
ischemic. s/p
   EGD push enteroscopy with GE junction, normal appearing small bowel
   follow up path.
   3. Anemia: lower than baseline, bumped with transfusion
 possible slow
   loss from
   4. Pain
   Morphine IV q4-6
 with good control
   5. Lupus
   Continue prednisone.  Consult rheumatology about whether SLE might play
   a role in her abdominal process.
   6. Venous thromboses
   Heparin for now since unable to take oral meds.
   7. Pulmonary hypertension
   Will eventually need follow-up
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Midline - [**2141-10-19**] 05:35 AM
   22 Gauge - [**2141-10-19**] 05:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor

2141-10-22 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Changed HTN regimen to  decrease pill burden and keep increased basal
   levels of anti-HTNs
   Changed to Toprol XL 200, Amlodipine 120, Hydral 50mg q8
   SBP 130s-180s
   Given morphine IV x 2 for breakthrough pain,
   Sarna lotion for pruritus.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 250 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2141-10-21**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Additional Sexual History Taken: Pt last sexually active within past
   few months. + abnormal Pap Smear in past. Always used condoms. No known
   history of GC or Chlamydia.
   Review of systems is unchanged from admission except as noted below
   Review of systems: Feeling well. Pain tolerated. No headache, chest
   pain, shortness of breath.
   Flowsheet Data as of  [**2141-10-22**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 90 (80 - 105) bpm
   BP: 179/109(127) {127/65(80) - 194/115(130)} mmHg
   RR: 18 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    551 mL
                                                                     33 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    191 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    550 mL
   Urine:
                                                                    350 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,199 mL
                                                                   -517 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   VITALS: Afebrile  127/68   83   19   99% RA
   GEN:  Pleasant, sitting up in bed, no distress
   HEENT: Normocephalic. L prosthetic eye, EOMI in R eye
   COR: S1, S2, RRR, 2/6 systolic murmur.
   RESP:  CTAB
   ABD: Soft, moderately tender to palpation diffusely without peritoneal
   signs, +BS; PD line intact with dressing clean, dry and intact.
   EXT:  No LE edema b/l; PICC in R arm
   SKIN:  warm, no erythema.
   NEURO: Attentive, follows commands, oriented.
   Labs / Radiology
   128 K/uL
   9.3 g/dL
   112 mg/dL
   7.3 mg/dL
   19 mEq/L
   4.2 mEq/L
   32 mg/dL
   108 mEq/L
   137 mEq/L
   27.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2141-10-15**]  08:06 PM
                             [**2141-10-17**]  06:08 AM
                             [**2141-10-17**]  10:48 AM
                             [**2141-10-17**]  10:56 PM
                             [**2141-10-18**]  05:49 AM
                             [**2141-10-18**]  04:25 PM
                             [**2141-10-19**]  05:12 AM
                            [**2141-10-20**]  03:55 AM
                            [**2141-10-21**]  03:07 AM
                            [**2141-10-22**]  01:57 AM
   WBC
   3.6
   3.5
   2.9
   5.8
   4.0
   4.0
   4.3
   Hct
   22.4
   19.7
   18.6
   24.7
   23.4
   22.9
   26.2
   25.5
   25.1
   27.3
   Plt
   108
   106
   102
   97
   107
   101
   128
   Cr
   8.0
   8.2
   7.9
   8.3
   8.0
   7.7
   7.3
   Glucose
   123
   106
   90
   96
   84
   118
   112
   Other labs: PT / PTT / INR:21.0/56.9/2.0, CK / CKMB /
   Troponin-T:133/8/0.08, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:247/39, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   24yo woman with ESRD secondary to SLE (started PD approx two weeks
   ago), malignant HTN, h/o SVC syndrome, and multiple thrombotic events
   (on warfarin) who initially presented with abdominal pain and nausea
   and has been sent back to the MICU with hypertensive urgency.
   # Hypertensive urgency:  Improved BP control overnight with SBP max
   190s for 24 hrs, and 160s overnight. Asymptomatic.
   -- Anti-hypertensives now consist of: Nifedipime CR 120mg PO Daily,
   Toprol XL 200mg PO Daily, Hydralazine 50mg PO TID, Clonidine Patch,
   Aliskiren 300mg PO Daily.
   -- Will provide extra dose of Toprol XL 100 mg PO Daily, and start
   Toprol XL 300mg tomorrow
   -- continue home regimen of aliskerin, hydralazine, nifedipine and
   clonidine PO
   -- 1:1 nursing observation of po med therapy
   -- prn Labetalol gtt with SBP goal of <160, unlikely to need this
   -- PD today
   -- pain and nausea control as below
   # Nausea/Vomiting/Diarrhea/Abd Pain: Controlled overnight.  Abd pain
   continues to be of unclear etiology.  Lactates have been normal and
   infectious work-up negative.  Small bowel enteroscopy not revealing,
   although final pathology still pending.  Sexual history taken (listed
   above)
   -- Will dose pt for Fentanyl Patch to provide better baseline pain
   control
   -- Continue morphine per previous dosing, 2-4mg IV q4PRN.
   -- Consider further Gyn work-up given abdominal pain etiology continues
   to remain unclear
   # ESRD: [**2-11**] SLE.  Estimated GFR is 8mL/min.
   -- continue PD when possible per renal
   -- patient will likely need HD as she may not be getting sufficient
   dialysis with PD
   -- Continue Calcitriol
   -- appreciate renal recs
   # Anemia:  Hct Stable at 27.3
   -- daily Hct; active type and screen
   -- Cont Epogen per renal recs
   # Metabolic Acidosis: Chronic anion gap metabolic acidosis.  Bicarb of
   19 now at baseline.
   -- renal recs
   -- trend HCO3
   # H/O Venous Thrombosis: INR now therapeutic.
   -- Cont Warfarin 2mg qd at home
   -- D/C Heparin IV gtt
   -- trend INR
   # SLE:
   -- Cont prednisone 4mg home dose
   # OSA: pt unable to tolerate CPAP, not an active inpatient issue.
   -- F/u with outside PCP for OSA [**Name Initial (PRE) **]/u.
   # FEN:
   -- Pt refused renal diet, now on regular diet (and eating potato
   chips). IVF to KVO. Replete lytes prn.
   # ACCESS:
   -- PD cath, PIVx1, mid-line
   # PPx: Coumadin,
   # CODE: FULL
   # COMMUNICATION: Patient, mother [**Name (NI) 4948**] [**Name (NI) **] (works at [**Hospital1 54**]).
   # Dispo: MICU called out to HMED on [**Hospital Ward Name 790**] 3 today so that pt could
   receive Labetolol gtt if needed short-term
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2141-10-21**] 02:30 AM
   22 Gauge - [**2141-10-21**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined and was present for the key portions of the
   services provided.  I have reviewed Dr [**Last Name (STitle) 5951**]
s note above and agree
   with the findings and plan of care.  I would add that over the past 8
   hrs there has been substantial improvement in BP control, though with
   abdominal pain (which seems at least in part related to her PD)
   [**Known firstname 4965**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] can rise sharply.  Unfortunately neither Dilaudid nor
   Morphine orally seem to help her pain.  We will thus try low dose
   fentanyl patch as well as increasing her lopressor, to get even better
   BP control.   Overall she looks and feels well, and will be transferred
   to the floor later today.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2141-10-22**] 18:09 ------

2141-10-23 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hypertensive O/N with SBP into 250-260's. Given extra hydralazine 50mg
   PO, Labetalol IV 20mg x2, and started on labetalol gtt with some
   improvement in SBP. Off labetalol gtt now. Nifedipime given early.
   Asymptomatic.
   Pt also had episodex1 N/V during PD, zofran given with relief.
   s/p PDx4 over last 24hrs; pt did not complete final PD cycle [**2-11**]
   abdominal discomfort.
   1 BM over past 24hrs.
   In follow up to Dr. [**Last Name (STitle) 5951**]
s Sexual History from yest, the patient also
   reports that she has a h/o
cysts
 on her ovaries; seen on U/S two
   years ago in ER after pt reports having abdominal pain.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, headache
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2141-10-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 91 (77 - 105) bpm
   BP: 109/65(72) {109/65(72) - 256/147(167)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,168 mL
                                                                    313 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                     88 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,610 mL
   Urine:
                                                                    750 mL
                                                                     50 mL
   NG:
   60 mL
   Stool:
   Drains:
   Balance:
                                                                   -182 mL
                                                                 -1,298 mL
   Respiratory support
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   GEN:  Pleasant, sitting up in bed, mild distress with regards to abd
   pain
   HEENT: Normocephalic. L prosthetic eye, EOMI in R eye
   COR: S1, S2, RRR, 2/6 systolic murmur.
   RESP:  CTAB, no WRR
   ABD: Soft, moderately tender to palpation in lower quadrants esp in
   lower midline, without peritoneal signs, +BS; PD line intact with
   dressing clean, dry and intact.
   EXT:  No LE edema b/l; midline in R arm
   SKIN:  warm, no erythema.
   NEURO: Attentive, follows commands, oriented.
   Labs / Radiology
   153 K/uL
   9.2 g/dL
   93 mg/dL
   7.0 mg/dL
   17 mEq/L
   4.6 mEq/L
   32 mg/dL
   108 mEq/L
   136 mEq/L
   26.9 %
   5.4 K/uL
        [image002.jpg] Path: Antrum and jejunum samples-no abnormal
   findings
                             [**2141-10-17**]  06:08 AM
                             [**2141-10-17**]  10:48 AM
                             [**2141-10-17**]  10:56 PM
                             [**2141-10-18**]  05:49 AM
                             [**2141-10-18**]  04:25 PM
                             [**2141-10-19**]  05:12 AM
                            [**2141-10-20**]  03:55 AM
                            [**2141-10-21**]  03:07 AM
                            [**2141-10-22**]  01:57 AM
                            [**2141-10-23**]  02:51 AM
   WBC
   3.5
   2.9
   5.8
   4.0
   4.0
   4.3
   5.4
   Hct
   19.7
   18.6
   24.7
   23.4
   22.9
   26.2
   25.5
   25.1
   27.3
   26.9
   Plt
   106
   102
   97
   107
   101
   128
   153
   Cr
   8.2
   7.9
   8.3
   8.0
   7.7
   7.3
   7.0
   Glucose
   106
   90
   96
   84
   118
   112
   93
   Other labs: PT / PTT / INR:19.4/51.1/1.8, CK / CKMB /
   Troponin-T:133/8/0.08, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:247/39, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   24yo woman with ESRD secondary to SLE (started PD approx three weeks
   ago), malignant HTN, h/o SVC syndrome, and multiple thrombotic events
   (on warfarin) who initially presented with abdominal pain, diarrhea and
   nausea and has been sent back to the MICU with hypertensive urgency.
   # Hypertensive urgency:  Uncontrolled BP overnight with SBP max 260
   for 24 hrs, appears to be associated with PD and abdominal pain. Pt
   responded to labetalol gtt and nifedipime, labetalol gtt currently
   held. Increased toprol XL from 200mg to 300mg PO qday yesterday.
   -- Will d/w Renal (emailed Dr. [**Last Name (STitle) 3006**] regarding adding additional BP
   medications and past trials of anti-hypertensives. Considering
   minoxidil, ACE inhibitors, and increase in nifedipime.
   -- Considering Renal U/S. Will d/w Renal
   -- Anti-hypertensives now consist of: Nifedipime CR 120mg PO Daily,
   Toprol XL 300mg PO Daily, Hydralazine 50mg PO TID, Clonidine Patch,
   Aliskiren 300mg PO Daily.
   -- 1:1 nursing observation of po med therapy
   -- prn Labetalol gtt with SBP goal of <160
   -- PD today per renal
   -- pain and nausea control as below
   # Nausea/Vomiting/Diarrhea/Abd Pain:  Abd pain continues to be of
   unclear etiology.  Lactates have been normal and infectious work-up
   negative.  Small bowel enteroscopy negative for abnormal findings.
   Sexual history taken (listed above).
   -- Currently has Fentanyl Patch to provide better baseline pain
   -- Start Morphine Sulfate IR 30-45 mg PO Q6H:PRN; standing order for
   Morphine 2-4mg IV q4PRN.
   -- Consider further Gyn work-up given abdominal pain etiology continues
   to remain unclear (h/o vaginal bleeding and pain related to
cysts
 per
   patient).
   # ESRD: [**2-11**] SLE.  Estimated GFR is 8mL/min.
   -- continue PD when possible per renal
   -- patient will likely need HD as she may not be getting sufficient
   dialysis with PD
   -- appreciate renal recs
   # Anemia:  Hct Stable at 26.9
   -- daily Hct; active type and screen
   -- Cont Epogen per renal recs; will receive Epo tonight
   # Metabolic Acidosis: Chronic anion gap metabolic acidosis.  Bicarb of
   17 now.
   -- renal recs
   -- trend HCO3
   #hypocalcemia: Currently, calcium low at 7.4
   -Will obtain ionized Calcium
   -Will check Calcium daily and provide calcium gluconate 4mg IV PRN
   -Continue calcitriol
   # H/O Venous Thrombosis: INR now subtherapeutic.
   -- Today, will give Warfarin 3mg x1. Cont Warfarin 2mg qd to maintain
   INR [**2-12**].
   -- D/C Heparin IV gtt
   -- trend INR
   # SLE:
   -- Cont prednisone 4mg home dose
   # OSA: pt unable to tolerate CPAP secondary to claustrophobia.
   Hypertensive episodes may be related to OSA.
   -- Will have respiratory therapy visit patient today and encourage
   small trials of CPAP to get patient used to mask.
   # FEN:
   -- Pt refused renal diet, now on regular diet (and eating potato
   chips). IVF to KVO. Replete lytes prn.
   # ACCESS:
   -- PD cath, PIV-22x1, mid-line on right
   # PPx: Coumadin,
   # CODE: FULL
   # COMMUNICATION: Patient, mother [**Name (NI) 4948**] [**Name (NI) **] (works at [**Hospital1 54**]).
   # Dispo: MICU for now to monitor BP. Will call out if BP stabilizes and
   adequate anti-hypertensive regimen is achieved.
   PGY2 Addendum
   Agree with above excellent MS4 note. Uptitrating BP meds, will discuss
   with inpt and outpt nephrology.
   - [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 842**] [**Pager number 5970**]
   PGY2
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed the note above and agree
   with the findings and plan of care.  I would add the following:
   Ms [**Known lastname 406**] continues to have very wide swings in BP with frankly still
malignantly
 elevate BP
s at times.  These seem to be more in the
   evening and perhaps more when her PD fluid is dwelling.  We will
   discuss with renal today her HTN so that we can come to a concerted
   plan, and what new meds to consider (?minoxidil).
   We will try reverting to morphine orally, but in higher dose, hoping to
   better control her pain.
   She is snoring today, even when awake.  Despite her claustrophobia, she
   needs to try CPAP again, initially for very short intervals, to get
   used to the mask.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
         ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
                                                on:[**2141-10-23**] 16:48 ------

2141-10-24 05:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Emesisx4 at 1500; 500cc total, trace pos gastroccult; borderline
   tachy; per renal, considering uremic bleeding/platelets? Started DDAVP.
   Held coumadin.
   - Reported a period of Chest Pain last night - constant and cramp like
   in character in sternal/epigastric areas, non-radiating, in the setting
   of burping acidic material.  Otherwise, asymptomatic. Serial EKG
   obtained and cardiac enzymes negative. GI cocktail ordered with relief
   of pain.
   -This am HCT 26
20, relative decrease in BP, no more hematemesis,
   guaiac stool negative, placed PIV-20gauge, started IV ppi [**Hospital1 **], NPO. D/w
   GI, no scope as patient ate food before NPO order given.
   -Labile HTN to 200
s at 1700, started on labetalol gtt
 stopped at
   12am; gave nifedipime early. [**Doctor Last Name 3006**]: Rec start outpatient oral
   hydralazine sliding
   -s/p PD x4 yesterday
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-23**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Currently, denies chest pain, abdominal pain, lightheadedness,
   dizziness, headache, nausea, vision changes.
   Flowsheet Data as of  [**2141-10-24**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 103 (75 - 108) bpm
   BP: 185/107(126) {109/59(70) - 200/122(130)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    968 mL
                  PO:
                                                                    210 mL
                  TF:
   IVF:
                                                                    758 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                  2,050 mL
   Urine:
                                                                     50 mL
                                                                    250 mL
   NG:
                                                                    530 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,213 mL
                                                                 -2,050 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN:  Pleasant, sitting up in bed, NAD
   HEENT: Normocephalic. L prosthetic eye, EOMI in R eye, MMM
   COR: S1, S2, RRR, 2/6 systolic murmur.
   RESP:  CTAB, no WRR
   ABD: Soft, mildly tender to palpation in lower quadrants esp in lower
   midline, without peritoneal signs, +BS; PD line intact with dressing
   clean, dry and intact.
   EXT:  No LE edema b/l; midline in R arm
   SKIN:  warm, no erythema.
   NEURO: Attentive, follows commands, oriented.
   Labs / Radiology
   7.1
   145 K/uL
   116 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.7 mEq/L
   56 mg/dL
   138 mEq/L
   134 mEq/L
   20.8 %
   8.1
        [image002.jpg] PT/PTT/INR: 20.6/42.1/1.9; Ca/Mg/PO:7.9/1.7/5.1; CK
   138
106, MB 8
7, Trop 0.06
0.07
                             [**2141-10-17**]  10:48 AM
                             [**2141-10-17**]  10:56 PM
                             [**2141-10-18**]  05:49 AM
                             [**2141-10-18**]  04:25 PM
                             [**2141-10-19**]  05:12 AM
                            [**2141-10-20**]  03:55 AM
                            [**2141-10-21**]  03:07 AM
                            [**2141-10-22**]  01:57 AM
                            [**2141-10-23**]  02:51 AM
                            [**2141-10-23**]  08:20 PM
   WBC
   2.9
   5.8
   4.0
   4.0
   4.3
   5.4
   Hct
   18.6
   24.7
   23.4
   22.9
   26.2
   25.5
   25.1
   27.3
   26.9
   26.2
   Plt
   102
   97
   107
   101
   128
   153
   Cr
   7.9
   8.3
   8.0
   7.7
   7.3
   7.0
   TropT
   0.06
   Glucose
   90
   96
   84
   118
   112
   93
   Other labs: PT / PTT / INR:19.4/51.1/1.8, CK / CKMB /
   Troponin-T:138/8/0.06, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:247/39, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   24yo woman with ESRD secondary to SLE (started PD approx three weeks
   ago), malignant HTN, h/o SVC syndrome, and multiple thrombotic events
   (on warfarin) who initially presented with abdominal pain, diarrhea and
   nausea and hypertensive urgency
   #Anemia: HCT 26
20 O/N in setting of hematemesis and epigastric pain.
   Etiologies including UGIB from PUD or gastritis (given history of
   chronic prednisone use, previous CT findings of gastric wall edema, and
   possible uremic bleeding) or possible LGIB from ischemia (although
   negative stool guaiac, negative lactates); 1 PIV-20gauge placed in
   addition to midline; 2units pRBC ordered for transfusion; d/w GI, no
   scope for now as patient ate this am. Hemodynamically stable (not
   tachycardic) now although possible relative decreased BP.
   -F/u GI for formal recs with re to possible scope tomorrow. EGD vs
   colonoscopy? If colonoscopy, need prep.
   -NPO for now
   -Repeat HCT at 5pm after 2units of pRBCs; transfuse to keep HCT >25.
   -Epogen MWF
   # Hypertensive urgency:  Uncontrolled BP overnight with SBP max 190
   usually her HTN is associated with PD and abdominal pain. Pt responded
   to labetalol gtt, labetalol gtt currently off; Nifedipine given early.
   Current low BP possibly secondary to medication or decreased
   intravascular blood volume secondary to GIB. Current BP meds:
   Nifedipime CR 120mg PO Daily, Toprol XL 300mg PO Daily, Hydralazine
   50mg PO TID, Clonidine Patch, Aliskiren 300mg PO Daily.
   -- D/w Dr. [**Last Name (STitle) 3006**] regarding outpatient oral hydralazine sliding scale
   (SS: If SBP>170, take 25 mg po hydralazine as needed, every 20 minutes,
   until her bps improve improves.)
   - Per Dr. [**Last Name (STitle) 5991**],  Will switch patient back to all home
   antihypertensive medications: nifedipine SR 60mg qday, labetalol 900mg
   TID, hydralazine 50mg q8hr (will write for scale), clonidine 0.3mg/24hr
   patch qwed, aliskiren 150mg [**Hospital1 **].
   -- 1:1 nursing observation of po med therapy
   -- PD x4 each day: Will increase PD fill volume to 1.25.
   -- pain and nausea control as below
   #Chest Pain: Currently no pain and hemodynamically stable. No changes
   on serial EKGs, initial enzymes negative. In setting of gastroccult pos
   emesis before pain. Pt given GI cocktail with relief from pain. Most
   likely etiology includes GERD and PUD with possible bleeding ulcer,
   however, still considering Angina or ACS (given risk factors).
   -Continue to rule out ACS with serial enzymes
   -Consider increasing pantoprozole 40mg PO qday to [**Hospital1 **]
   # Nausea/Diarrhea/Abd Pain:  Lower abd pain continues to be of unclear
   etiology.  Lactates have been normal and infectious work-up negative.
   Small bowel enteroscopy negative for abnormal findings. No new issues.
   -- Currently has MSIR 30-45 mg PO Q6H:PRN; standing order for Morphine
   2-4mg IV q4PRN.
   # ESRD: [**2-11**] SLE.  s/p PDx4 yesterday. Estimated GFR is 8mL/min.
   -- continue PD per renal recs as above.
   -- patient will likely need HD as she may not be getting sufficient
   dialysis with PD; however, still refuses HD.
   -- appreciate renal recs
   # Metabolic Acidosis: Chronic anion gap metabolic acidosis.  Bicarb of
   23 now.
   -- renal recs
   -- trend HCO3
   #hypocalcemia: Currently, calcium improved at 7.9 although still low.
   Anticipate decrease Ca with transfusion
   -Will check Calcium daily and provide calcium gluconate 4mg IV PRN
   -Continue calcitriol
   # H/O Venous Thrombosis: INR now subtherapeutic at 1.9. Held coumadin
   yesterday and today with re to possible UGIB.
   -- Hold Coumadin until HCT stabilizes/post-GI scope
   -- D/C Heparin IV gtt
   -- trend INR
   # SLE:
   -- Cont prednisone 4mg home dose
   # OSA: pt unable to tolerate CPAP secondary to claustrophobia.
   Hypertensive episodes may be related to OSA.
   -- Will have respiratory therapy visit patient today and encourage
   small trials of CPAP to get patient used to mask.
   # FEN:
   -- NPO for possible GI scope. IVF to KVO. Replete lytes prn.
   # ACCESS:
   -- PD cath, PIV-20x1, mid-line on right
   # PPx: Coumadin,
   # CODE: FULL
   # COMMUNICATION: Patient, mother [**Name (NI) 4948**] [**Name (NI) **] (works at [**Hospital1 54**]).
   # Dispo: MICU for now to monitor BP and HCT.
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   PGY2 addendum:
   Agree with MSIV assessment/plan as detailed above.  Briefly, 24F with
   SLE, ESRD on PD, HTN, SVC syndrome; admit with abdominal pain and HTN
   urgency.  Current issues include Hct drop and concern for active UGIB
   with ?hematemesis yesterday.  GI aware, plan for scope in AM if
   continues to be stable.  Minimal PO/NPO today.   [**Hospital1 **] PPI.  Transfuse 2
   units and recheck this evening.  BP currently in 120s on above regimen,
   ?lower due to GI bleeding.  Continue antihypertensives (may switch to
   home regimen); consider increasing PD fluid concentration to get more
   fluid off (6L positive LOS).  Retrial of CPAP if tolerated.  Will
   monitor in MICU for now
 watching BP and hematocrits.

2141-10-24 12:51:00 Physician Attending Progress Note
Chief Complaint: Hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Emesis yesterday afternoon, dark material (trace positive).
   Episode of chest discomfort, associated with n/v.  ECG without acute
   changes, Troponin not elevated.  Chest pain improved with
   lidocaine/benedryl/maalox.
   BP improved with current regimen.  Currently off iv labatolol.
   Tolerating peritoneal dialysis reasonably well.
 EKG - At [**2141-10-23**] 08:18 PM
 CHEST PAIN - At [**2141-10-23**] 08:18 PM
 EKG - At [**2141-10-24**] 01:22 AM
 CHEST PAIN - At [**2141-10-24**] 01:23 AM
   History obtained from Medical records
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-24**] 08:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-10-24**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.2
   HR: 85 (85 - 108) bpm
   BP: 128/85(74) {119/61(74) - 200/122(130)} mmHg
   RR: 12 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    968 mL
                  PO:
                                                                    210 mL
                  TF:
   IVF:
                                                                    758 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                  1,150 mL
   Urine:
                                                                     50 mL
                                                                    250 mL
   NG:
                                                                    530 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,213 mL
                                                                 -1,150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, left eye prosthesis
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: upper quadrants, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   145 K/uL
   116 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.7 mEq/L
   56 mg/dL
   103 mEq/L
   134 mEq/L
   20.8 %
   8.1 K/uL
        [image002.jpg]
                             [**2141-10-18**]  05:49 AM
                             [**2141-10-18**]  04:25 PM
                             [**2141-10-19**]  05:12 AM
                            [**2141-10-20**]  03:55 AM
                            [**2141-10-21**]  03:07 AM
                            [**2141-10-22**]  01:57 AM
                            [**2141-10-23**]  02:51 AM
                            [**2141-10-23**]  08:20 PM
                            [**2141-10-24**]  06:59 AM
                            [**2141-10-24**]  10:32 AM
   WBC
   2.9
   5.8
   4.0
   4.0
   4.3
   5.4
   8.1
   Hct
   23.4
   22.9
   26.2
   25.5
   25.1
   27.3
   26.9
   26.2
   20.7
   20.8
   Plt
   102
   97
   107
   101
   128
   153
   145
   Cr
   7.9
   8.3
   8.0
   7.7
   7.3
   7.0
   7.0
   TropT
   0.06
   0.07
   Glucose
   90
   96
   84
   118
   112
   93
   116
   Other labs: PT / PTT / INR:20.6/42.1/1.9, CK / CKMB /
   Troponin-T:106/7/0.07, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:247/39, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Hypertensive urgency.
   HYPERTENSION -- challenging to treat, but improved on current regimen.
   Now off iv meds.  Tolerating longer acting agents, allowing
   consolidated regimen.  Suspect emesis likely contributes to challenges
   controlling BP with oral medications.
   ANEMIA -- progressive.  Concern for GI bleed.  GI consulted, pending
   EGD.  Continue to monitor serial Hct, maintain >21.  Transfuse.
   s/p THROMBOTIC COMPLICATIONS -- s/p coumadin (holding).  Hope to resume
   once current GI evaluation complete.
   RENAL FAILURE -- currently with PD,but tolerating only intermittently
   (abd discomfort).  Only receiving total 16 hrs PD.  Hopefully can
   increase duration or percentage of dialysate to remove more fluid
   (consider alternating 2.5% and 4%).
   CHEST PAIN -- chest pain syndrome, unlikely caridac in origin.  Suspect
   related to GI tract such as reflux.
   ABD PAIN -- not surgical abd.  [**Month (only) 60**] be related to PD, but no evidence
   for peritonitis or PD catheter associated infection.
   SLE -- continue prednisone.
   OSA -- prior trial of CPAP --> poorly tolerated due to clostrophobia.
   Hope to resume trials with alternate forms of mask.  Control of OSA may
   improve control of HTN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2141-10-21**] 02:30 AM
   20 Gauge - [**2141-10-24**] 10:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2141-10-25 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Per renal attg Dr. [**Last Name (STitle) 3006**], changed HTN regimen to home regimen, BP
   better controlled overnight; also increased PD fluid from 1L to 1.2L
   per exchange which will begin morning of [**10-25**].
   HCT bumped appropriately 20->26 after 2 units. Some
   epigastric/midsternal discomfort with reflux
given GI cocktail with
   relief. NPO for planned EGD.
   Tmax at 102 this am (800); Blood, Urine, and PD cultures sent; end of
   last transfusion was at 1840 yesterday evening.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-24**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-25**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 95 (80 - 101) bpm
   BP: 185/121(136) {108/57(72) - 193/121(136)} mmHg
   RR: 11 (9 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    566 mL
                  PO:
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                  3,850 mL
                                                                      0 mL
   Urine:
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,284 mL
                                                                      0 mL
   Respiratory support
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GEN:  Pleasant, sitting up in bed, NAD
   HEENT: Normocephalic. L prosthetic eye, EOMI in R eye, MMM
   COR: S1, S2, RRR, 2/6 systolic murmur.
   RESP:  CTAB, no WRR
   ABD: Soft, NTND, +BS; PD line intact with dressing clean, dry and
   intact, PD running.
   EXT:  No UE or LE edema b/l; midline in R arm,
   SKIN:  warm, no erythema.
   NEURO: MAE, Alert, Follows commands.
   Labs / Radiology
   158
   9.6
   93
   6.8 mg/dL
   23 mEq/L
   4.9 mEq/L
   60 mg/dL
   101 mEq/L
   133
   28.1 %
    7.6
        [image002.jpg] Stat CXR (Prelim): Free air under R hemidiaphragm,
   increased opacification, retrocardial, maybe due to L basal atelectasis
   or pleural effusion.
   a: 8.2 Mg: 1.9 P: 5.1;
   PT: 19.5
   PTT: 37.6
   INR: 1.8
                             [**2141-10-18**]  04:25 PM
                             [**2141-10-19**]  05:12 AM
                            [**2141-10-20**]  03:55 AM
                            [**2141-10-21**]  03:07 AM
                            [**2141-10-22**]  01:57 AM
                            [**2141-10-23**]  02:51 AM
                            [**2141-10-23**]  08:20 PM
                            [**2141-10-24**]  06:59 AM
                            [**2141-10-24**]  10:32 AM
                            [**2141-10-24**]  11:20 PM
   WBC
   5.8
   4.0
   4.0
   4.3
   5.4
   8.1
   Hct
   22.9
   26.2
   25.5
   25.1
   27.3
   26.9
   26.2
   20.7
   20.8
   26.2
   Plt
   97
   107
   101
   128
   153
   145
   Cr
   8.3
   8.0
   7.7
   7.3
   7.0
   7.0
   TropT
   0.06
   0.07
   Glucose
   96
   84
   118
   112
   93
   116
   Other labs: PT / PTT / INR:20.6/42.1/1.9, CK / CKMB /
   Troponin-T:106/7/0.07, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:247/39, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   24yo woman with ESRD secondary to SLE (started PD approx three weeks
   ago), malignant HTN, h/o SVC syndrome, and multiple thrombotic events
   (on warfarin) who initially presented with abdominal pain, diarrhea and
   nausea and hypertensive urgency.
   #Anemia: Repeat HCT s/p 2u pRBCs increased HCT 20
26. Etiologies
   including UGIB from PUD or gastritis (given history of chronic
   prednisone use, previous CT findings of gastric wall edema, and
   possible uremic bleeding) or possible LGIB from ischemia (although
   negative stool guaiac, negative lactates); 1 PIV-20gauge placed in
   addition to midline. Hemodynamically stable.
   -Appreciate GI recs, will d/w GI re possible EGD today or tomorrow.
   -NPO for procedure; if procedure is tomorrow, will make NPO at midnight
   - Will continue to follow serial HCTs (will check at 5pm).
   - Pantoprazole 40mg IV BID
   -Epogen MWF
   # Hypertensive urgency:  BP overnight with SBP max high 200. New HTN
   regimen began as described below. PD volume increased from 1
1.2L.
   -- Appreciate renal recs.
   -- antihypertensive medications: nicardipine 20mg PO q8, labetalol
   300mg TID, hydralazine 25mg PO PRN q30min for SBP>180, clonidine
   0.3mg/24hr patch qwed, aliskiren 150mg [**Hospital1 **].
   -- Will consider decreasing hydralazine sliding scale
   treatment-parameter SBP from 180
170.
   -- 1:1 nursing observation of po med therapy
   -- PD x4 each day using 1.2L over 4hrs per PD.
   -- pain and nausea control as below
   #Fever: Tmax this am to 102. Etiologies include infection (UTI, PNA,
   gastroenteritis with resulting bacteremia), SLE, transfusion rxn
   (unlikely given length of time between fever and end of transfusion),
   or SVT/DVT (history of thrombosis with current sub-therapeutic INR).
   -Blood, Urine, and PD cultures sent (along with PD cell count). Will
   follow up results.
   -Acetaminophen 25-650 mg PO Q6H:PRN
   #Chest Pain: Mild epigastric/midsternal pain last night with reflux,
   given GI cocktail with relief from pain. Ruled out MI yesterday. Pt.
   Most likely etiology includes GERD and PUD with possible bleeding
   ulcer, however, still considering Angina or ACS (given risk factors).
   -pantoprozole 40mg PO qday to [**Hospital1 **]
   -GI cocktail PRN
   # Nausea/Diarrhea/Abd Pain:  Resolving. Initial lower abd pain
   continues to be of unclear etiology.  Lactates have been normal and
   infectious work-up negative.  Small bowel enteroscopy negative for
   abnormal findings. No new issues.
   -- Currently has MSIR 30-45 mg PO Q6H:PRN.
   # ESRD: [**2-11**] SLE.  Estimated GFR is 8mL/min.
   -- continue PD per renal recs as above.
   -- patient will likely need HD as she may not be getting sufficient
   dialysis with PD; however, still refuses HD.
   -- appreciate renal recs
   # H/O Venous Thrombosis: INR now subtherapeutic at 1.8. Held coumadin
   yesterday and today with re to possible UGIB.
   -- Hold Coumadin until HCT stabilizes/post-GI scope
   -- D/c
ed Heparin IV gtt, will re-start heparin IV gtt and d/c prior to
   procedure.
   -- trend INR
   # Metabolic Acidosis: Resolving. Chronic anion gap metabolic acidosis.
   Bicarb of 23 now.
   -- renal recs
   -- follow HCO3
   #hypocalcemia: Currently, calcium improved at 8.2.
   -Will check Calcium daily and provide calcium gluconate 4mg IV PRN
   -Continue calcitriol, calcium carbonate.
   # SLE:
   -- Cont prednisone 4mg home dose
   # OSA: pt unable to tolerate CPAP secondary to claustrophobia.
   Hypertensive episodes may be related to OSA.
   -- Will have respiratory therapy visit patient today and encourage
   small trials of CPAP to get patient used to mask.
   # FEN:
   -- Regular diet; make NPO 8hrs before possible GI scope. IVF to KVO.
   Replete lytes prn.
   # ACCESS:
   -- PD cath, PIV-20x1, mid-line on right
   # PPx: Coumadin,
   # CODE: FULL
   # COMMUNICATION: Patient, mother [**Name (NI) 4948**] [**Name (NI) **] (works at [**Hospital1 54**]).
   # Dispo: MICU for now to monitor BP and HCT. Consider call out if floor
   outside of MICU is able to manage the patient
s BP.
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   PGY2 addendum:  [**First Name8 (NamePattern2) 16**] [**Last Name (NamePattern1) 6017**], p [**Numeric Identifier 6018**]
   Agree with MSIV assessment/plan as detailed above.  Briefly, 24F with
   SLE, ESRD on PD, HTN, SVC syndrome; admit with abdominal pain and HTN
   urgency.  Current issues include Hct drop and concern for active UGIB
   with ?hematemesis the day prior.  GI aware, plan for scope, likely
   tomorrow.  Ideally would prefer to perform in GI suite.  [**Hospital1 **] PPI.  BP
   continues to be elevated, but patient remains asymptomatic.  After
   discussion with primary Renal physician, [**Name10 (NameIs) 178**] restart all home
   medications at this point.  Of note, will continue Hydralazine sliding
   scale per his recommendations.     Will continue current PD plans, but
   could consider increasing PD fluid concentration to get more fluid off
   (6L positive LOS).  Retrial of CPAP if tolerated.  Consider call-out to
   floor today.  Ideally [**Hospital Ward Name 790**] 3 would be best given ability to initiate a
   Labetolol gtt if needed.

2141-10-25 13:09:00 Physician Attending Progress Note
Chief Complaint: Malignant hypertension, hypertensive urgency.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains off iv infusion for BP control.  Remains on all oral meds.
   Experience temperature elevation this AM.
   Received 2 U PRBC for low Hct, presumed slow GI blood loss.  GI
   evaluation in progress.  EGD pending.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-24**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-10-25**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.2
C (99
   HR: 89 (80 - 103) bpm
   BP: 150/65(83) {108/65(83) - 190/121(136)} mmHg
   RR: 8 (8 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    566 mL
                                                                     60 mL
   PO:
                  60 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                  3,850 mL
                                                                   -600 mL
   Urine:
                                                                    650 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,284 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, left eye prosthesis
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   158 K/uL
   93 mg/dL
   6.7 mg/dL
   23 mEq/L
   4.9 mEq/L
   58 mg/dL
   101 mEq/L
   133 mEq/L
   28.1 %
   7.6 K/uL
        [image002.jpg]
                            [**2141-10-20**]  03:55 AM
                            [**2141-10-21**]  03:07 AM
                            [**2141-10-22**]  01:57 AM
                            [**2141-10-23**]  02:51 AM
                            [**2141-10-23**]  08:20 PM
                            [**2141-10-24**]  06:59 AM
                            [**2141-10-24**]  10:32 AM
                            [**2141-10-24**]  11:20 PM
                            [**2141-10-25**]  06:13 AM
                            [**2141-10-25**]  11:00 AM
   WBC
   4.0
   4.0
   4.3
   5.4
   8.1
   7.6
   Hct
   25.5
   25.1
   27.3
   26.9
   26.2
   20.7
   20.8
   26.2
   28.1
   Plt
   107
   101
   128
   153
   145
   158
   Cr
   8.0
   7.7
   7.3
   7.0
   7.0
   6.8
   6.7
   TropT
   0.06
   0.07
   Glucose
   84
   118
   112
   93
   116
   93
   93
   Other labs: PT / PTT / INR:19.5/37.6/1.8, CK / CKMB /
   Troponin-T:106/7/0.07, ALT / AST:13/60, Alk Phos / T Bili:148/0.2,
   Amylase / Lipase:247/39, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:6.4 %, Eos:0.7 %, Fibrinogen:330 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:288 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Hypertensive urgency.
   HYPERTENSION -- improving control.  Now on oral meds.  Monitor BP.
   Continue Clonidine, Latetolol, Nicardipine, Hydralazine prn to maintain
   SBP <170 mmHg.
   ANEMIA -- attributed to gradual blood loss on background of ACD.  s/p
   transfusion.  Hct stable.  Continue erythropoetin.
   NUTRITIONAL SUPPORT -- NPO pending GI evaluation.
   FEVER -- removed from blood transfusion.  Monitor for new infection.
   Consider medication related.  Evaluation in progress (blood, urine,
   sputum, stool cultures, C. diff, LFTs)
   SLE -- stable.  Continue steroids (Prednisone 4mg).
   SVC syndrome/DVT -- remote.  Continue coumadin, monitor INR
   OSA -- continue trial of CPAP with different mask.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2141-10-21**] 02:30 AM
   20 Gauge - [**2141-10-24**] 10:25 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if able to perform PD exchanges.
   Total time spent: 55 minutes